US07432392B2
{3-Dimethylcarbamoyl-4-[(4′-trifluoromethylbiphenyl-2-carbonyl)amino]phenoxy}acetic acid benzyl ester (260 mg) was dissolved in ethyl acetate (5 mL), and thereto was added 7.5% palladium carbon (250 mg). The mixture was stirred for 1 hour under hydrogen atomosphere. The reaction solution was filtered through a Celite and the filtrate was concentrated to give {3-dimethylcarbamoyl-4-[(4′-trifluoromethylbiphenyl-2-carbonyl)amino]phenoxy}acetic acid (118 mg).

reactant | {3-Dimethylcarbamoyl-4-[(4′-trifluoromethylbiphenyl-2-carbonyl)amino]phenoxy}acetic acid benzyl ester | 260 mg | C(C1=CC=CC=C1)OC(COC1=CC(=C(C=C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C(N(C)C)=O)=O | C32H27F3N2O5
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 250 mg | [C].[Pd]
product | {3-dimethylcarbamoyl-4-[(4′-trifluoromethylbiphenyl-2-carbonyl)amino]phenoxy}acetic acid | 118 mg | CN(C(=O)C=1C=C(OCC(=O)O)C=CC1NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C25H21F3N2O5
